US05118811
To a solution of N-[4-oxo-4-(4-chlorobenzylamino)butanoyl]-L-prolinal (304 mg) in DMF (2.5 ml) were added hydroxylamine hydrochloride (75 mg) and pyridine (90 μl), and the mixture was stirred at 70° C. for 2 hours. To a solution of crude (2S)-1-[4-oxo-4-(4-chlorobenzylamino)butanoyl]-2-pyrrolidinecarboxaldehyde oxime as obtained by subjecting the reaction mixture to concentration under reduced pressure, in methylene chloride (4 ml) were added pyridine (0.16 ml) and acetic anhydride (0.19 ml), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was treated in the same manner as in Example 15 to give 249 mg of (2S)-1-[4-oxo-4-(4-chlorobenzylamino)butanoyl]-2-pyrrolidinecarboxaldehyde O-acetyloxime.

reactant | N-[4-oxo-4-(4-chlorobenzylamino)butanoyl]-L-prolinal | 304 mg | O=C(CCC(=O)N1[C@H](C=O)CCC1)NCC1=CC=C(C=C1)Cl | C16H19ClN2O3
reactant | hydroxylamine hydrochloride | 75 mg | Cl.NO
reactant | pyridine | 90 μl | N1=CC=CC=C1 | C5H5N
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[4-oxo-4-(4-chlorobenzylamino)butanoyl]-2-pyrrolidinecarboxaldehyde oxime | O=C(CCC(=O)N1[C@@H](CCC1)C=NO)NCC1=CC=C(C=C1)Cl | C16H20ClN3O3
